US06911468B2
(2) 2-(4-Benzyloxyphenyl)-1-(3-decyloxyphenyl)-5-methyl-1H-pyrrole
A solution of 3-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]phenol (1.80 g, 5.07 mmol), 1-bromoundecane (1.58 ml, 7.60 mmol) and potassium carbonate (1.05 g, 7.06 mmol) in DMF (15 ml) was stirred at 80° C. for 12 hours. The reaction solution was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate anhydride, and solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give the object compound as an oily substance. 1.90 g (yield: 75.7%)

reactant | 3-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]phenol | 5.07 mmol, 1.80 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)C=1C=C(C=CC1)O | C24H21NO2
reactant | 1-bromoundecane | 7.60 mmol, 1.58 ml | BrCCCCCCCCCCC | C11H23Br
reactant | potassium carbonate | 7.06 mmol, 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-(4-Benzyloxyphenyl)-1-(3-decyloxyphenyl)-5-methyl-1H-pyrrole | yield: 75.7% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)C1=CC(=CC=C1)OCCCCCCCCCC | C34H41NO2
